* Arm C oscillator 9: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/claude/w/pdk/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/claude/w/pdk/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm C oscillator 9: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 5.534920e-17
Cg1 nand_Y 0 5.534920e-17
Cc0 EN i1_A 3.933460e-17
Cx0 i1_A 0 1.083380e-16
Rn1_1 i1_Y i2_A 19.4973
Cg2 i2_A 0 5.218950e-17
Cg3 i1_Y 0 5.218950e-17
Cx1 i2_A 0 1.668560e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 1.073160e-16
Cg5 i10_Y 0 1.073160e-16
Cc1 i11_A i12_A 3.028690e-17
Cc2 i11_A i13_A 0.000000e+00
Cc3 i11_A i9_A 0.000000e+00
Cc4 i11_A i10_A 5.831340e-17
Rn11_3 i11_Y i12_A 21.1313
Cg6 i12_A 0 1.244220e-16
Cg7 i11_Y 0 1.244220e-16
Cc5 i12_A i13_A 2.957940e-17
Cc6 i12_A i14_A 0.000000e+00
Cc7 i12_A i10_A 0.000000e+00
Rn12_4 i12_Y i13_A 21.3813
Cg8 i13_A 0 1.609930e-16
Cg9 i12_Y 0 1.609930e-16
Cc8 i13_A i14_A 2.959480e-17
Cc9 i13_A i15_A 0.000000e+00
Rn13_5 i13_Y i14_A 21.1313
Cg10 i14_A 0 1.252380e-16
Cg11 i13_Y 0 1.252380e-16
Cc10 i14_A i15_A 3.028690e-17
Rn14_6 i14_Y i15_A 21.3813
Cg12 i15_A 0 1.463070e-16
Cg13 i14_Y 0 1.463070e-16
Cc11 i15_A s1145_12 1.402400e-17
Rn15_7 i15_Y s1145_12 20.5768
Rn15_8 s1145_12 buf_A 9.8357
Rn15_9 s1145_12 i16_A 10.4027
Cg14 i16_A 0 5.858080e-17
Cg15 buf_A 0 3.390290e-17
Cg16 i15_Y 0 1.171910e-16
Cg17 s1145_12 0 2.096750e-16
Cc12 i16_A s1170_20 2.285980e-17
Cc13 buf_A s1170_20 2.593550e-17
Cc14 s1145_12 nand_B 1.473400e-16
Cx2 s1145_12 0 0.000000e+00
Rn16_10 i16_Y i17_A 19.4973
Cg18 i17_A 0 5.339630e-17
Cg19 i16_Y 0 5.339630e-17
Rn17_11 i17_Y i18_A 19.4973
Cg20 i18_A 0 6.997100e-17
Cg21 i17_Y 0 6.997100e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 5.340570e-17
Cg23 i18_Y 0 5.340570e-17
Rn19_13 i19_Y i20_A 19.4973
Cg24 i20_A 0 5.339630e-17
Cg25 i19_Y 0 5.339630e-17
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 6.997100e-17
Cg27 i2_Y 0 6.997100e-17
Rn20_15 i20_Y i21_A 19.4973
Cg28 i21_A 0 6.167360e-17
Cg29 i20_Y 0 6.167360e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 5.532820e-17
Cg31 i21_Y 0 5.532820e-17
Cc15 i22_A i23_A 1.673050e-17
Rn22_17 i22_Y i23_A 30.2652
Cg32 i23_A 0 1.333770e-16
Cg33 i22_Y 0 1.333770e-16
Cc16 i23_A i24_A 2.808530e-17
Cx3 i23_A 0 8.488220e-18
Cx4 i23_A 0 1.257240e-16
Cx5 i23_A 0 4.033180e-17
Rn23_18 i23_Y i24_A 20.8277
Cg34 i24_A 0 1.179810e-16
Cg35 i23_Y 0 1.179810e-16
Cc17 i24_A i25_A 2.959480e-17
Cc18 i24_A i26_A 0.000000e+00
Cx6 i24_A 0 0.000000e+00
Cx7 i24_A 0 2.664800e-17
Rn24_19 i24_Y i25_A 21.1313
Cg36 i25_A 0 8.998700e-17
Cg37 i24_Y 0 8.998700e-17
Cc19 i25_A i26_A 2.959480e-17
Cc20 i25_A i27_A 0.000000e+00
Cx8 i25_A 0 1.408270e-16
Rn25_20 i25_Y i26_A 21.3813
Cg38 i26_A 0 1.322960e-16
Cg39 i25_Y 0 1.322960e-16
Cc21 i26_A i27_A 3.028690e-17
Cc22 i26_A i28_A 0.000000e+00
Cx9 i26_A 0 2.417650e-17
Rn26_21 i26_Y i27_A 21.1313
Cg40 i27_A 0 7.868770e-17
Cg41 i26_Y 0 7.868770e-17
Cc23 i27_A i28_A 2.957940e-17
Cc24 i27_A i29_A 0.000000e+00
Cx10 i27_A 0 1.436590e-16
Rn27_22 i27_Y i28_A 21.3813
Cg42 i28_A 0 1.591520e-16
Cg43 i27_Y 0 1.591520e-16
Cc25 i28_A i29_A 2.959480e-17
Cc26 i28_A i30_A 0.000000e+00
Cx11 i28_A 0 3.907810e-18
Rn28_23 i28_Y i29_A 21.1313
Cg44 i29_A 0 1.252380e-16
Cg45 i28_Y 0 1.252380e-16
Cc27 i29_A i30_A 3.028690e-17
Rn29_24 i29_Y i30_A 21.3813
Cg46 i30_A 0 1.305000e-16
Cg47 i29_Y 0 1.305000e-16
Cc28 i30_A nand_B 2.629080e-17
Cx12 i30_A 0 2.747940e-17
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 5.340570e-17
Cg49 i3_Y 0 5.340570e-17
Rn30_26 i30_Y nand_B 34.8411
Cg50 nand_B 0 4.074930e-16
Cg51 i30_Y 0 4.074930e-16
Cx13 nand_B 0 2.401540e-18
Cc29 EN nand_B 3.253400e-17
Cx14 nand_B 0 0.000000e+00
Cx15 nand_B 0 5.589410e-17
Cx16 nand_B 0 0.000000e+00
Rn4_27 i4_Y i5_A 19.4973
Cg52 i5_A 0 4.511950e-17
Cg53 i4_Y 0 4.511950e-17
Cx17 i5_A 0 3.820620e-17
Rn5_28 i5_Y i6_A 19.4973
Cg54 i6_A 0 4.572980e-17
Cg55 i5_Y 0 4.572980e-17
Cx18 i6_A 0 4.869190e-17
Rn6_29 i6_Y i7_A 19.4973
Cg56 i7_A 0 4.075760e-17
Cg57 i6_Y 0 4.075760e-17
Cc30 i7_A i8_A 1.658220e-17
Cx19 i7_A 0 4.799980e-17
Rn7_30 i7_Y i8_A 30.2652
Cg58 i8_A 0 1.304090e-16
Cg59 i7_Y 0 1.304090e-16
Cc31 i8_A i9_A 2.798270e-17
Cx20 i8_A 0 1.232880e-16
Cx21 i8_A 0 1.215730e-16
Cx22 i8_A 0 9.245850e-18
Rn8_31 i8_Y i9_A 20.8277
Cg60 i9_A 0 1.000210e-16
Cg61 i8_Y 0 1.000210e-16
Cc32 i9_A i10_A 2.959480e-17
Cx23 i9_A 0 1.344800e-16
Rn9_32 i9_Y i10_A 21.2027
Cg62 i10_A 0 1.365870e-16
Cg63 i9_Y 0 1.365870e-16
Rout_33 buf_X s1170_20 43.0500
Cg64 buf_X 0 1.685190e-15
Cg65 s1170_20 0 2.017480e-15
Cx24 s1170_20 0 2.048250e-17
Cx25 s1170_20 0 2.626120e-17
Cx26 s1170_20 0 1.412760e-16
Cx27 s1170_20 0 2.417650e-17
Cx28 s1170_20 0 1.707320e-16
Cx29 s1170_20 0 2.566940e-17
Cx30 s1170_20 0 6.285480e-16
Cx31 s1170_20 0 4.904160e-16

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
